US06365736B1
In 56 ml of glacial acetic acid, 6 g of 2-methyl-1,4-benzoxazin-3-(4H)-one is precooled at 0° C. and mixed drop by drop with 1.9 ml of bromine in 19 ml of glacial acetic acid. It is allowed to reach room temperature and stirred for another 8 hours. The mixture is poured onto ice water, the crystals are suctioned off and washed with water. 9.3 g of crude product results, which is recrystallized from ethanol/water. 7-Bromo-2-methyl-1,4-benzoxazin-3-(4H)-one is obtained as a by-product. As an alternative, 4-bromo-2-aminophenol can also be reacted according to the described processes.

reactant | 2-methyl-1,4-benzoxazin-3-(4H)-one | 6 g | CC1OC2=C(NC1=O)C=CC=C2 | C9H9NO2
reactant | bromine | 1.9 ml | BrBr | Br2
solvent | acetic acid | 56 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 19 ml | C(C)(=O)O | C2H4O2
product | 7-Bromo-2-methyl-1,4-benzoxazin-3-(4H)-one | BrC1=CC2=C(NC(C(O2)C)=O)C=C1 | C9H8BrNO2
